US08609117B2
Synthesis of (+/−)(1R,2R)-2-[(2Z)-2-pentenyl]-3-hydroxycyclopentaneethanol of formula
In a 50 ml three-necked flask equipped with a condenser, a thermometer and a magnetic stirrer, 1 g (4.5 mmol) of methyl (+/−)-jasmonate was dissolved in 15 ml of tetrahydrofuran. 430 mg (11.3 mmol) of lithium aluminium hydride, LiAlH4, were added. The mixture was stirred at 50° C. for 4 hours. When the reaction was finished, 5 ml of water were added slowly. The precipitate formed was filtered off and the filtrate was acidified to pH=5 with hydrochloric acid and then extracted with ethyl acetate (3×30 ml). The organic phase was dried over sodium sulphate, filtered on filter paper, and then concentrated. The colourless oil obtained was purified by chromatography on silica gel (eluent: dichloromethane/methanol). The colourless oil obtained was dried under vacuum.

reactant | jasmonate | CC/C=C\C[C@@H]1[C@H](CCC1=O)CC(=O)O | C12H18O3
reactant | lithium aluminium hydride | 11.3 mmol, 430 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (+/−)(1R,2R)-2-[(2Z)-2-pentenyl]-3-hydroxycyclopentaneethanol | C(\C=C/CC)[C@@H]1[C@H](CCC1O)CCO | C12H22O2
